US07649011B2
7-Methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carboxylic acid [4-hydroxy-1-(tetrahydro-pyran-4-yl)-pyrrolidin-2-ylmethyl]-(2-methyl-3-phenyl-allyl)-amide
Experimental condition analogous to Example 14 were used with 7-methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carboxylic acid (4-hydroxy-pyrrolidin-2-ylmethyl)-(2-methyl-3-phenyl-allyl)-amide 0.16 g (0.35 mmol), tetrahydro-4H-pyrane-4-one 0.042 g (0.42 mmol), acetic acid 0.03 ml (0.53 mmol) and sodium cyanoborohydride 0.026 g (0. 42 mmol). After transforming the free base to HCl salt, 130 mg of white solid was obtained. Yield: 65%.

reactant | 7-methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carboxylic acid (4-hydroxy-pyrrolidin-2-ylmethyl)-(2-methyl-3-phenyl-allyl)-amide | 0.35 mmol, 0.16 g | OC1CC(NC1)CN(C(=O)C1=CC2=C(OC(O2)(C)C)C(=C1)OC)CC(=CC1=CC=CC=C1)C | C26H32N2O5
reactant | tetrahydro-4H-pyrane-4-one | 0.42 mmol, 0.042 g | O1CCC(CC1)=O | C5H8O2
reactant | acetic acid | 0.53 mmol, 0.03 ml | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 42 mmol, 0.026 g | C(#N)[BH3-].[Na+]
reactant | HCl | Cl | ClH
product | 7-Methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carboxylic acid [4-hydroxy-1-(tetrahydro-pyran-4-yl)-pyrrolidin-2-ylmethyl]-(2-methyl-3-phenyl-allyl)-amide | 130 mg, Yield: 65% | OC1CC(N(C1)C1CCOCC1)CN(C(=O)C1=CC2=C(OC(O2)(C)C)C(=C1)OC)CC(=CC1=CC=CC=C1)C | C31H40N2O6
